US09315521B2
To a mixture of 3-(bromomethyl)-5-ethylpyridine (4.82 g, 24.08 mmol), 6-methyl-2-sulfanylpyrimidin-4-ol (2.22 g, 15.65 mmol) in anhydrous ethanol (100 mL) at 0° C. was added triethylamine (9.74 g, 13.41 mL, 96.35 mmol). The reaction mixture was allowed to stir at room temperature overnight. The solvent was evaporated to provide a crude residue. Ether was added to precipitate the triethylamine hydrobromide salt. The solid was filtered and was washed with ether several times. The solvent was evaporated to provide a crude residue, which was purified by combiflash using 0-10% MeOH:dichloromethane. 2-{[(5-ethylpyridin-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol was obtained as a white solid (2.83 g, 45% yield); 1H NMR (400 MHz, DMSO-d6): δ 1.14 (t, 3H), 2.21 (s, 3H), 2.61 (q, 2H), 4.35 (s, 2H), 6.00 (bs, 1H), 7.69 (s, 1H), 8.31 (s, 1H), 8.45 (s, 1H); M+261.5.

reactant | 3-(bromomethyl)-5-ethylpyridine | 24.08 mmol, 4.82 g | BrCC=1C=NC=C(C1)CC | C8H10BrN
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 15.65 mmol, 2.22 g | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | triethylamine | 96.35 mmol, 13.41 mL, 9.74 g | C(C)N(CC)CC | C6H15N
reactant | Ether | CCOCC | C4H10O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2-{[(5-ethylpyridin-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | C(C)C=1C=C(C=NC1)CSC1=NC(=CC(=N1)O)C | C13H15N3OS
